US03959322
13β-Ethyl-17β-(3-phenylpropionoxy)-gon-4-en-3-one
Add 13β-ethyl-17β-hydroxy-gon-4-en-3-one (0.11 g.) in dry pyridine (0.35 cc.) at -20° to 3-phenylpropionyl chloride (0.11 g.) in benzene (0.3 cc.). Keep this at -10° for 16 hours, add ice-cold water and extract with a mixture of equal volumes of ether and benzene. Wash the extracts in turn with 2N potassium hydroxide solution, water, 2N hydrochloric acid solution, and brine, and dry. Evaporate solvent to give a residue and recrystallize from a mixture of ether and ethyl acetate to obtain the title compound (0.10 g.), m.p. 135°-40°; infrared absorption peaks at 5.81, 5.99, 8.51, 13.3, 14.3 μ, showing no absorption due to hydroxyl.

reactant | 13β-ethyl-17β-hydroxy-gon-4-en-3-one | 0.11 g | C(C)[C@]12[C@H](CC[C@H]2[C@H]2[C@H](CC1)[C@H]1CCC(C=C1CC2)=O)O | C19H28O2
reactant | 3-phenylpropionyl chloride | 0.11 g | C1(=CC=CC=C1)CCC(=O)Cl | C9H9ClO
solvent | pyridine | 0.35 cc | N1=CC=CC=C1 | C5H5N
solvent | benzene | 0.3 cc | C1=CC=CC=C1 | C6H6
product | 13β-Ethyl-17β-(3-phenylpropionoxy)-gon-4-en-3-one | 0.10 g | C(C)[C@]12[C@H](CC[C@H]2[C@H]2[C@H](CC1)[C@H]1CCC(C=C1CC2)=O)OC(CCC2=CC=CC=C2)=O | C28H36O3
